US08445684B2
4-[2-[4-(Benzyloxy)phenoxy]ethyl]piperidine
Anhydrous ZnBr2 (1.10 g, 4.88 mmol, 2.0 equiv.) was added to a solution of tert-butyl 4-[2-[4-(benzyloxy)phenoxy]ethyl]piperidine-1-carboxylate (1.00 g, 2.43 mmol) in CH2Cl2 (20 mL) under N2. The mixture was stirred overnight at room temperature, diluted with CH2Cl2 (300 mL), and washed with saturated aqueous NaHCO3 solution and brine. The organic layer was dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by preparative HPLC (column: SunFire Prep C18, 100×19 mm, 5 μm particle size; UV detection at 220 nm; flow 18 mL/min; mobile phase: CH3CN in water with 0.05% CF3COOH; 5-30% CH3CN in 6 min.) The eluate was partially evaporated under reduced pressure (bath 30° C.) to remove CH3OH. The residue was basified with aqueous NaHCO3 solution and extracted with EtOAc. The combined organic layers were washed with brine and dried. After concentration in vacuo, the free base was obtained as a white solid. 1H NMR (CDCl3, 300 MHz) δ 7.46-7.31 (m, 5H), 6.93 (d, 2H, J=9.0 Hz), 6.83 (d, 2H, J=9.0 Hz), 5.03 (s, 2H), 3.97 (t, 2H, J=6.0 Hz), 3.12 (d, 2H, J=11.7 Hz), 2.64 (t, 2H, J=12 Hz), 2.27 (br s, 1H), 1.78-1.69 (m, 5H), 1.25-1.17 (m, 2H). LC-MS (ESI) m/z 312 (M+H+).

reactant | tert-butyl 4-[2-[4-(benzyloxy)phenoxy]ethyl]piperidine-1-carboxylate | 2.43 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H33NO4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | ZnBr2 | 4.88 mmol, 1.10 g, 2.0 equiv. | [Zn+2].[Br-].[Br-]
product | 4-[2-[4-(Benzyloxy)phenoxy]ethyl]piperidine | C(C1=CC=CC=C1)OC1=CC=C(OCCC2CCNCC2)C=C1 | C20H25NO2
